*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF630ARA560MJA0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXF630ARA560MJA0G_20deg-C 1 2

C1 4 2 4.41e-05
C2 5 2 3.52e-06
C3 6 2 1.90e-06
R1 3 4 1.64e-02
R2 4 5 6.68e-01
R3 5 6 1.10e+01
L1 1 3 4.50e-09

.ENDS
*$
